US06541501B2
(7,8-Diamino-chroman-2-yl)-methanol
To a solution of toluene-4-sulfonic acid 2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diazacyclopenta[a]naphthalen-8-ylmethyl ester (500 mg, 2.11 mmol) in THF (50 mL) was added lithium borohydride (2.11 mL, 2 M, 4.22 mmol). The resulting solution was stirred for 30 min at 50° C. and then evaporated in vacuo to a residue. The residue was dissolved in ethyl acetate (100 mL) and then washed with water (2×30 mL), dried over anhydrous Na2SO4. The solvent was removed in vacuo to afford 352 mg (86% yield) of the title compound: 1H NMR (400 MHz), CDCl3) δ1.90 (m, 2H), 2.78 (m, 2H), 3.18 (bs, 4H), 3.78 (m, 1H, OH), 3.82 (m, 2H), 4.18 (m, 1H), 6.33 (d, J=8 Hz), 6.42 (d, J=8 Hz); MS 195 [M+H]+.

reactant | toluene-4-sulfonic acid 2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diazacyclopenta[a]naphthalen-8-ylmethyl ester | 2.11 mmol, 500 mg | FC(C=1NC=2C(=C3OC(CCC3=CC2)COS(=O)(=O)C2=CC=C(C=C2)C)N1)(F)F | C19H17F3N2O4S
reactant | lithium borohydride | 4.22 mmol, 2 M, 2.11 mL | [BH4-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (7,8-Diamino-chroman-2-yl)-methanol | 352 mg, 86% yield | NC1=CC=C2CCC(OC2=C1N)CO | C10H14N2O2
